US05556855
Ethyl 2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate
Dichlorobis(triphenylphosphine)palladium (0.07 g, 0.1 mmol) and copper(I)iodide (0.04 g, 0.2 mmol) were added to a solution of ethyl 2-hydroxy-5-iodobenzoate (14.9 g, 50 mmol) and 4-ethynyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide (14.3 g, 50 mmol) in methylamine (10 g, 0.1 mol) and dimethylacetamide (60 ml) at 65° C. Hot ethanol was added after 1 h and then hot water (100 ml) with stirring. The solid was filtered off after cooling in the refrigerator and recrystallized from formic acid and water to yield 17.0 g (77%) product.

reactant | ethyl 2-hydroxy-5-iodobenzoate | 50 mmol, 14.9 g | OC1=C(C(=O)OCC)C=C(C=C1)I | C9H9IO3
reactant | 4-ethynyl-N-(3-methyl-2-pyridinyl)benzenesulfonamide | 50 mmol, 14.3 g | C(#C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C14H12N2O2S
reactant | methylamine | 0.1 mol, 10 g | CN | CH5N
reactant | ethanol | C(C)O | C2H6O
solvent | dimethylacetamide | 60 ml | CC(=O)N(C)C | C4H9NO
catalyst | Dichlorobis(triphenylphosphine)palladium | 0.1 mmol, 0.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I)iodide | 0.2 mmol, 0.04 g | [Cu]I
solvent | water | 100 ml | O | H2O
product | Ethyl 2-hydroxy-5-[[4-[(3-methyl-2-pyridinylamino)sulfonyl]phenyl]ethynyl]benzoate | 17.0 g, 77% | OC1=C(C(=O)OCC)C=C(C=C1)C#CC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1C | C23H20N2O5S
